US05369110
A solution of 4.0 g (9.8 mmol) of 3-methoxycarbonyl-3-methyl-butanoic acid N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-amide and 4.3 g (13 mmol) of tributyltin azide in 80 ml of o-xylene is reacted analogously to Example 1 for 24 hours. For hydrolysis, the reaction mixture is stirred with 50 ml of 2N potassium hydroxide solution at from 40 bis 50° for 4 hours. The aqueous phase is separated and acidified with 2N hydrochloric acid, and the oil which separates is extracted with ethyl acetate. Washing of the ethyl acetate solution with water, drying over MgSO4 and concentration by evaporation yield 3-carboxy-3-methyl-butanoic acid N-butyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amide in the form of a colourless foam that has an Rf value of 0.25 [toluene/isopropanol/glacial acetic acid (170:30:2)].

reactant | 3-methoxycarbonyl-3-methyl-butanoic acid N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-amide | 9.8 mmol, 4.0 g | C(CCC)N(C(CC(C)(C)C(=O)OC)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C25H30N2O3
reactant | tributyltin azide | 13 mmol, 4.3 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | potassium hydroxide | 2N, 50 ml | [OH-].[K+]
solvent | o-xylene | 80 ml | CC=1C=CC=CC1C | C8H10
product | 3-carboxy-3-methyl-butanoic acid N-butyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amide | C(CCC)N(C(CC(C)(C)C(=O)O)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C24H29N5O3
